US08748418B2
To a solution of (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine (intermediate A10B) (20 mg, 78.4 μmol) in 1,2-dichloroethane (200 μl) was added at 23° C. under inert atmosphere 3-chloro-5,6-dihydro-[1]pyrindin-7-one (14.4 mg, 86.2 μmol) and acetic acid (9.41 mg, 8.97 μl, 157 μmol) and the solution was stirred at 23° C. for 30 min. Then sodium triacetoxyborohydride (24.9 mg, 118 μmol) was added and the mixture was stirred at 23° C. for 4 h. After addition of 1 M HCl (1 ml) and stirring for 10 min, the aqueous layer was washed once with dichloromethane, then treated with sat. Na2CO3-sol. to achieve pH 14 and extracted twice with ethyl acetate. The combined organic layers were dried over Na2SO4 and evaporated to give a crude product, which was purified by basic preparative HPLC to give (5R,6R)-5-(5-(3-chloro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-ylamino)-2-fluorophenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (11 mg, 27.0 μmol, 34.5% yield) as a colorless oil. MS (ISP): m/z=407.3.3 [(M+H)+] and 409.3 [(M+2+H)+].

reactant | (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine | 78.4 μmol, 20 mg | NC=1C=CC(=C(C1)[C@]1(N=C(COC[C@@H]1F)N)C)F | C12H15F2N3O
reactant | 3-chloro-5,6-dihydro-[1]pyrindin-7-one | 86.2 μmol, 14.4 mg | ClC=1C=NC=2C(CCC2C1)=O | C8H6ClNO
reactant | acetic acid | 157 μmol, 8.97 μl, 9.41 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 118 μmol, 24.9 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1 M, 1 ml | Cl | ClH
solvent | 1,2-dichloroethane | 200 μl | ClCCCl | C2H4Cl2
product | (5R,6R)-5-(5-(3-chloro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-ylamino)-2-fluorophenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 27.0 μmol, 11 mg, 34.5% yield | ClC=1C=C2C(=NC1)C(CC2)NC=2C=CC(=C(C2)[C@]2(N=C(COC[C@@H]2F)N)C)F | C20H21ClF2N4O
